US05155196
Synthesis of hydroquinone monopropargyl ether
Hydroquinone (75.0 grams, 0.681 moles) is dissolved in 395 milliliters dimethylsulfoxide. The flask is purged with nitrogen, and aqueous sodium hydroxide (275 milliliters of a 5N solution, 1.375 moles) and water (210 milliliters) are added. Propargyl chloride (50.0 milliliters, 51.5 grams, 0.691 moles) is then added and the solution is stirred at room temperature overnight. The aqueous solution is washed twice with toluene, and then is acidified with 65 milliliters concentrated hydrochloric acid. The solution is extracted ten times with 100 milliliters toluene. The combined organic extracts are washed with 200 milliliters water and dried. Solvent is evaporated off and the crude product is distilled under vacuum. The boiling range of a fraction collected is between about 100° C. and about 109° C. at pressures between about 0.4 and 0.5 millimeters of mercury. The yield of monopropargyl ether is about 53 grams reflecting a yield of about 52 percent. Gas chromatography analysis shows no other products present.

reactant | Hydroquinone | 0.681 moles, 75.0 grams | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | Propargyl chloride | 0.691 moles, 50.0 milliliters, 51.5 grams | C(C#C)Cl | C3H3Cl
solvent | dimethylsulfoxide | 395 milliliters | CS(=O)C | C2H6OS
product | hydroquinone monopropargyl ether | yield of about 52 percent | C(C#C)OC1=CC=C(O)C=C1 | C9H8O2
